US09120777B2
C) 2,4′-Difluoro-3-hydroxybiphenyl-4-carbaldehyde
(4-Fluorophenyl)boronic acid (33.2 g), 2M aqueous sodium carbonate solution (237 mL), palladium (II) acetate (2.49 g) and dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl (9.74 g) were added to a solution of 4-bromo-3-fluoro-2-hydroxybenzaldehyde (34.6 g) in DME (350 mL) at room temperature. The mixture was stirred at 100 C under argon atmosphere for 16 hours. The mixture was cooled to room temperature. Water (700 mL) was added to the reaction mixture. The mixture was concentrated in vacuo to remove DME. The precipitate was collected by filtration and washed with water. The aqueous filtrate was set aside for further purification. Then the solid was washed with ethyl acetate. The solid was added to a mixture of ethyl acetate and 1M hydrochloric acid. The mixture was stirred at room temperature for 1 hour and filtrated through celite. The filtrate was extracted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title compound (20.6 g).

reactant | (4-Fluorophenyl)boronic acid | 33.2 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2M, 237 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl | 9.74 g | C1(CCCCC1)P(C1CCCCC1)C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC | C26H35O2P
reactant | 4-bromo-3-fluoro-2-hydroxybenzaldehyde | 34.6 g | BrC1=C(C(=C(C=O)C=C1)O)F | C7H4BrFO2
solvent | DME | 350 mL | COCCOC | C4H10O2
catalyst | palladium (II) acetate | 2.49 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | 700 mL | O | H2O
product | 2,4′-Difluoro-3-hydroxybiphenyl-4-carbaldehyde | 20.6 g | FC1=C(C=CC(=C1O)C=O)C1=CC=C(C=C1)F | C13H8F2O2
